US07863271B2
To an iced-cooled solution of 2,2-dimethylpiperazine (1.0 g, 8.76 mmol) in methanol (200 mL) was added di-tert-butyl dicarbonate (1.91 g, 8.76 mmol) and triethylamine (2.67 g, 26.27 mmol). The reaction mixture was stirred at room temperature for 20 h. The solvent was removed under reduced pressure and the residual oil was extracted with CHCl3 (3×60 mL). The organic phase was concentrated under reduced pressure to afford tert-butyl 3,3-dimethylpiperazine-1-carboxylate (662 mg, 35%) as yellow oil. MS consistent.

reactant | 2,2-dimethylpiperazine | 8.76 mmol, 1.0 g | CC1(NCCNC1)C | C6H14N2
reactant | di-tert-butyl dicarbonate | 8.76 mmol, 1.91 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 26.27 mmol, 2.67 g | C(C)N(CC)CC | C6H15N
solvent | methanol | 200 mL | CO | CH4O
product | tert-butyl 3,3-dimethylpiperazine-1-carboxylate | 662 mg, 35% | CC1(CN(CCN1)C(=O)OC(C)(C)C)C | C11H22N2O2
